*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 09:48:30 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "DLY4X4"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  DLY4X4 A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 5.3223e-16
*|P (A X 0 0.9320 2.7840)
*|I (MX77/M0#g MX77/M0 g X 0 0.4750 0.8025)
*|I (MX83/M0#g MX83/M0 g X 0 0.4750 3.2375)
*|S (A#7 0.4750 2.6500)
*|S (A#8 0.9050 2.6500)
*|S (A#11 0.9185 2.6500)
*|S (A#12 0.9185 2.7840)
C1 MX83/M0#g VSS 5.23736e-17
C2 MX77/M0#g VSS 4.86102e-17
C3 A#12 VSS 1.62213e-16
C4 A#11 VSS 1.11714e-16
C5 A#8 VSS 7.46293e-17
C6 A#7 VSS 8.26899e-17
Rg1 MX83/M0#g A#7 169.942413 $W=0.15
Rg2 A#7 MX77/M0#g 574.822449 $W=0.15
Rf3 A#8 A#7 47.376472 $W=0.17
Re4 A#8 A#11 152.001358 $W=1.24
Re5 A#12 A 0.001361 $W=1.24
Re6 A#11 A#12 0.064423 $W=0.26
*
*|NET Y 1.20757e-15
*|P (Y X 0 10.5920 2.0340)
*|I (MX74/M0#d MX74/M0 d X 0 9.5105 0.9700)
*|I (MX74/M1#s MX74/M1 s X 0 9.7895 0.9700)
*|I (MX74/M2#d MX74/M2 d X 0 10.3705 0.9700)
*|I (MX74/M3#s MX74/M3 s X 0 10.6495 0.9700)
*|I (MX75/M0#d MX75/M0 d X 0 9.5105 2.9850)
*|I (MX75/M1#s MX75/M1 s X 0 9.7895 2.9850)
*|I (MX75/M2#d MX75/M2 d X 0 10.3705 2.9850)
*|I (MX75/M3#s MX75/M3 s X 0 10.6495 2.9850)
*|S (Y#2 9.6500 2.9450)
*|S (Y#3 9.6500 1.0050)
*|S (Y#6 10.5100 2.9450)
*|S (Y#7 10.5100 1.0050)
*|S (Y#9 10.5525 1.8850)
*|S (Y#10 9.6500 1.8850)
C7 MX74/M2#d VSS 1.08327e-16
C8 MX74/M0#d VSS 1.12113e-16
C9 Y#10 VSS 1.1564e-16
C10 Y#3 VSS 9.82927e-17
C11 Y#2 VSS 2.84874e-16
C12 Y#7 VSS 1.03343e-16
C13 Y#6 VSS 2.83349e-16
C14 Y VSS 1.01635e-16
Rf7 MX75/M0#d Y#2 5.616868 $W=0.83
Rf8 Y#3 MX74/M0#d 8.423712 $W=0.485
Rf9 MX75/M2#d Y#6 5.616868 $W=0.83
Rf10 Y#7 MX74/M2#d 8.423712 $W=0.485
Re11 Y Y#9 0.056127 $W=0.315
Re12 Y#9 Y#10 0.378233 $W=0.23
Re13 Y#10 Y#3 76.473473 $W=0.23
Re14 Y Y#6 51.028175 $W=0.315
Re15 Y#9 Y#7 76.346207 $W=0.315
Re16 Y#10 Y#2 51.237968 $W=0.23
Rmw17 MX74/M1#s MX74/M0#d 0.001000 $W=1000000
Rmw18 MX74/M3#s MX74/M2#d 0.001000 $W=1000000
Rmw19 MX75/M1#s MX75/M0#d 0.001000 $W=1000000
Rmw20 MX75/M3#s MX75/M2#d 0.001000 $W=1000000
*
*|NET 1 6.49036e-16
*|I (MX78/M0#g MX78/M0 g X 0 0.9050 0.8025)
*|I (MX77/M0#d MX77/M0 d X 0 0.3995 0.8025)
*|I (MX87/M0#g MX87/M0 g X 0 0.9050 3.2375)
*|I (MX83/M0#d MX83/M0 d X 0 0.3995 3.2375)
*|S (1 0.9050 1.9700)
*|S (1#9 0.2600 3.0900)
*|S (1#10 0.2600 0.8500)
*|S (1#13 0.2600 1.9700)
C15 MX87/M0#g VSS 4.44192e-17
C16 MX77/M0#d VSS 4.38913e-17
C17 MX78/M0#g VSS 3.53717e-17
C18 1#10 VSS 9.67847e-17
C19 1#13 VSS 1.45886e-16
C20 1#9 VSS 2.06541e-16
C21 1 VSS 7.61422e-17
Rg21 MX87/M0#g 1 388.449097 $W=0.15
Rg22 1 MX78/M0#g 356.315735 $W=0.15
Rf23 MX83/M0#d 1#9 25.917646 $W=0.17
Rf24 1#10 MX77/M0#d 18.764706 $W=0.17
Rf25 1 1#13 215.564697 $W=0.17
Re26 1#9 1#13 152.608688 $W=0.23
Re27 1#13 1#10 152.608688 $W=0.23
*
*|NET 3 1.01749e-15
*|I (MX103/M0#d MX103/M0 d X 0 1.4105 0.8025)
*|I (MX97/M0#g MX97/M0 g X 0 2.7150 0.8025)
*|I (MX91/M0#d MX91/M0 d X 0 1.4105 3.2375)
*|I (MM0#g MM0 g X 0 2.7150 3.2375)
*|S (3 2.7150 3.2375)
*|S (3#7 2.6850 2.1450)
*|S (3#9 1.5500 3.0900)
*|S (3#10 1.5500 0.8500)
*|S (3#13 1.5500 2.1450)
C22 MX97/M0#g VSS 4.6462e-17
C23 MX103/M0#d VSS 8.05949e-17
C24 3#10 VSS 1.57076e-16
C25 3#13 VSS 2.93098e-16
C26 3#9 VSS 2.383e-16
C27 3#7 VSS 1.494e-16
C28 3 VSS 5.25618e-17
Rg28 3 3#7 332.215759 $W=0.15
Rg29 3#7 MX97/M0#g 412.549103 $W=0.15
Rf30 MX91/M0#d 3#9 25.917646 $W=0.17
Rf31 3#10 MX103/M0#d 18.764706 $W=0.17
Rf32 3#7 3#13 252.458832 $W=0.17
Re33 3#9 3#13 152.513580 $W=0.23
Re34 3#13 3#10 152.703812 $W=0.23
Rmw35 MM0#g 3 0.001000 $W=1000000
*
*|NET 4 9.56316e-16
*|I (MX84/M0#d MX84/M0 d X 0 2.2095 0.8025)
*|I (MX79/M0#g MX79/M0 g X 0 3.1450 0.8025)
*|I (MX88/M0#g MX88/M0 g X 0 3.1450 3.2375)
*|I (MX82/M0#d MX82/M0 d X 0 2.2095 3.2375)
*|S (4 3.1750 1.7950)
*|S (4#9 2.0700 3.0900)
*|S (4#10 2.0700 0.8500)
*|S (4#13 2.0700 1.7950)
C29 MX88/M0#g VSS 4.3211e-17
C30 MX79/M0#g VSS 4.19284e-17
C31 MX84/M0#d VSS 8.1532e-17
C32 4#10 VSS 1.21805e-16
C33 4#13 VSS 2.88621e-16
C34 4#9 VSS 2.46391e-16
C35 4 VSS 1.32827e-16
Rg36 MX88/M0#g 4 439.958893 $W=0.15
Rg37 4 MX79/M0#g 295.358887 $W=0.15
Rf38 MX82/M0#d 4#9 25.917646 $W=0.17
Rf39 4#10 MX84/M0#d 18.764706 $W=0.17
Rf40 4 4#13 250.199997 $W=0.17
Re41 4#9 4#13 152.703812 $W=0.23
Re42 4#13 4#10 152.513580 $W=0.23
*
*|NET 6 1.05432e-15
*|I (MX104/M0#d MX104/M0 d X 0 3.6505 0.8025)
*|I (MX80/M0#g MX80/M0 g X 0 4.9550 0.8025)
*|I (MX92/M0#d MX92/M0 d X 0 3.6505 3.2375)
*|I (MX89/M0#g MX89/M0 g X 0 4.9550 3.2375)
*|S (6 4.9550 3.2375)
*|S (6#7 4.9250 2.1450)
*|S (6#9 3.7900 3.0900)
*|S (6#10 3.7900 0.8500)
*|S (6#13 3.7900 2.1450)
C36 MX80/M0#g VSS 4.6462e-17
C37 MX104/M0#d VSS 8.21809e-17
C38 6#10 VSS 1.71494e-16
C39 6#13 VSS 3.10648e-16
C40 6#9 VSS 2.41571e-16
C41 6#7 VSS 1.494e-16
C42 6 VSS 5.25618e-17
Rg43 6 6#7 332.215759 $W=0.15
Rg44 6#7 MX80/M0#g 412.549103 $W=0.15
Rf45 MX92/M0#d 6#9 25.917646 $W=0.17
Rf46 6#10 MX104/M0#d 18.764706 $W=0.17
Rf47 6#7 6#13 252.458832 $W=0.17
Re48 6#9 6#13 152.513580 $W=0.23
Re49 6#13 6#10 152.703812 $W=0.23
Rmw50 MX89/M0#g 6 0.001000 $W=1000000
*
*|NET 7 9.49026e-16
*|I (MX105/M0#d MX105/M0 d X 0 4.4495 0.8025)
*|I (MX98/M0#g MX98/M0 g X 0 5.3850 0.8025)
*|I (MX101/M0#g MX101/M0 g X 0 5.3850 3.2375)
*|I (MX93/M0#d MX93/M0 d X 0 4.4495 3.2375)
*|S (7 5.4150 1.7950)
*|S (7#9 4.3100 3.0900)
*|S (7#10 4.3100 0.8500)
*|S (7#13 4.3100 1.7950)
C43 MX101/M0#g VSS 4.92123e-17
C44 MX98/M0#g VSS 3.48823e-17
C45 MX105/M0#d VSS 7.98881e-17
C46 7#10 VSS 1.2264e-16
C47 7#13 VSS 2.84611e-16
C48 7#9 VSS 2.4518e-16
C49 7 VSS 1.32612e-16
Rg51 MX101/M0#g 7 439.958893 $W=0.15
Rg52 7 MX98/M0#g 295.358887 $W=0.15
Rf53 MX93/M0#d 7#9 25.917646 $W=0.17
Rf54 7#10 MX105/M0#d 18.764706 $W=0.17
Rf55 7 7#13 250.199997 $W=0.17
Re56 7#9 7#13 152.703812 $W=0.23
Re57 7#13 7#10 152.513580 $W=0.23
*
*|NET 9 1.05197e-15
*|I (MX85/M0#d MX85/M0 d X 0 5.8905 0.8025)
*|I (MX81/M0#g MX81/M0 g X 0 7.1950 0.8025)
*|I (MX94/M0#d MX94/M0 d X 0 5.8905 3.2375)
*|I (MX90/M0#g MX90/M0 g X 0 7.1950 3.2375)
*|S (9 7.1950 3.2375)
*|S (9#7 7.1650 2.1450)
*|S (9#9 6.0300 3.0900)
*|S (9#10 6.0300 0.8500)
*|S (9#13 6.0300 2.1450)
C50 MX81/M0#g VSS 4.6462e-17
C51 MX85/M0#d VSS 8.28153e-17
C52 9#10 VSS 1.80092e-16
C53 9#13 VSS 3.11081e-16
C54 9#9 VSS 2.2623e-16
C55 9#7 VSS 1.52729e-16
C56 9 VSS 5.25618e-17
Rg58 9 9#7 332.215759 $W=0.15
Rg59 9#7 MX81/M0#g 412.549103 $W=0.15
Rf60 MX94/M0#d 9#9 25.917646 $W=0.17
Rf61 9#10 MX85/M0#d 18.764706 $W=0.17
Rf62 9#7 9#13 252.458832 $W=0.17
Re63 9#9 9#13 152.513580 $W=0.23
Re64 9#13 9#10 152.703812 $W=0.23
Rmw65 MX90/M0#g 9 0.001000 $W=1000000
*
*|NET 10 1.00591e-15
*|I (MX106/M0#d MX106/M0 d X 0 6.6895 0.8025)
*|I (MX99/M0#g MX99/M0 g X 0 7.6250 0.8025)
*|I (MX102/M0#g MX102/M0 g X 0 7.6250 3.2375)
*|I (MX95/M0#d MX95/M0 d X 0 6.6895 3.2375)
*|S (10 7.6550 1.7950)
*|S (10#9 6.5500 3.0900)
*|S (10#10 6.5500 0.8500)
*|S (10#13 6.5500 1.7950)
C57 MX102/M0#g VSS 5.25745e-17
C58 MX99/M0#g VSS 4.4849e-17
C59 MX106/M0#d VSS 8.04609e-17
C60 10#10 VSS 1.30357e-16
C61 10#13 VSS 3.04472e-16
C62 10#9 VSS 2.68267e-16
C63 10 VSS 1.24926e-16
Rg66 MX102/M0#g 10 439.958893 $W=0.15
Rg67 10 MX99/M0#g 295.358887 $W=0.15
Rf68 MX95/M0#d 10#9 25.917646 $W=0.17
Rf69 10#10 MX106/M0#d 18.764706 $W=0.17
Rf70 10 10#13 250.199997 $W=0.17
Re71 10#9 10#13 152.703812 $W=0.23
Re72 10#13 10#10 152.513580 $W=0.23
*
*|NET 11 9.2558e-16
*|I (MX100/M0#g MX100/M0 g X 0 9.0050 0.9700)
*|I (MX86/M0#d MX86/M0 d X 0 8.1305 0.8025)
*|I (MX96/M0#d MX96/M0 d X 0 8.1305 3.2375)
*|I (MX76/M0#g MX76/M0 g X 0 9.0050 2.9850)
*|S (11 9.0050 2.9850)
*|S (11#7 9.0050 1.6300)
*|S (11#9 8.2700 3.0900)
*|S (11#10 8.2700 0.8500)
*|S (11#13 8.2700 1.6300)
C64 MX86/M0#d VSS 6.96445e-17
C65 MX100/M0#g VSS 5.05684e-17
C66 11#10 VSS 1.03694e-16
C67 11#13 VSS 2.3934e-16
C68 11#9 VSS 2.58874e-16
C69 11#7 VSS 1.41727e-16
C70 11 VSS 6.17319e-17
Rg73 11 11#7 416.565735 $W=0.15
Rg74 11#7 MX100/M0#g 193.239075 $W=0.15
Rf75 MX96/M0#d 11#9 25.917646 $W=0.17
Rf76 11#10 MX86/M0#d 18.764706 $W=0.17
Rf77 11#7 11#13 222.341187 $W=0.17
Re78 11#9 11#13 152.793472 $W=0.23
Re79 11#13 11#10 152.423920 $W=0.23
Rmw80 MX76/M0#g 11 0.001000 $W=1000000
*
*|NET 12 1.42444e-15
*|I (MX100/M0#d MX100/M0 d X 0 8.9295 0.9700)
*|I (MX74/M0#g MX74/M0 g X 0 9.4350 0.9700)
*|I (MX74/M1#g MX74/M1 g X 0 9.8650 0.9700)
*|I (MX74/M2#g MX74/M2 g X 0 10.2950 0.9700)
*|I (MX74/M3#g MX74/M3 g X 0 10.7250 0.9700)
*|I (MX76/M0#d MX76/M0 d X 0 8.9295 2.9850)
*|I (MX75/M0#g MX75/M0 g X 0 9.4350 2.9850)
*|I (MX75/M1#g MX75/M1 g X 0 9.8650 2.9850)
*|I (MX75/M2#g MX75/M2 g X 0 10.2950 2.9850)
*|I (MX75/M3#g MX75/M3 g X 0 10.7250 2.9850)
*|S (12 10.7250 2.9850)
*|S (12#25 10.7250 1.9700)
*|S (12#26 10.2950 1.9700)
*|S (12#27 10.0800 1.9700)
*|S (12#28 9.8650 1.9700)
*|S (12#29 9.4350 1.9700)
*|S (12#31 8.7900 2.9100)
*|S (12#32 8.7900 1.0050)
*|S (12#35 8.7900 1.9700)
C71 MX75/M2#g VSS 6.06961e-17
C72 MX75/M1#g VSS 6.03661e-17
C73 MX75/M0#g VSS 5.84819e-17
C74 MX76/M0#d VSS 1.27513e-16
C75 MX74/M3#g VSS 5.8148e-17
C76 MX74/M2#g VSS 4.80719e-17
C77 MX74/M1#g VSS 4.78187e-17
C78 MX74/M0#g VSS 4.72187e-17
C79 MX100/M0#d VSS 1.08971e-16
C80 12#32 VSS 1.76934e-16
C81 12#35 VSS 2.03314e-16
C82 12#31 VSS 1.5059e-16
C83 12#27 VSS 2.01624e-16
C84 12 VSS 7.46884e-17
Rg81 12 12#25 322.176636 $W=0.15
Rg82 12#25 12#26 62.011234 $W=0.27
Rg83 12#26 12#27 36.929379 $W=0.27
Rg84 12#27 12#28 36.929379 $W=0.27
Rg85 12#28 12#29 62.011227 $W=0.27
Rg86 12#29 MX74/M0#g 317.356659 $W=0.15
Rg87 12#25 MX74/M3#g 317.356659 $W=0.15
Rg88 12#26 MX74/M2#g 314.799744 $W=0.15
Rg89 12#26 MX75/M2#g 319.619751 $W=0.15
Rg90 12#28 MX74/M1#g 314.799744 $W=0.15
Rg91 12#28 MX75/M1#g 319.619751 $W=0.15
Rg92 12#29 MX75/M0#g 322.176636 $W=0.15
Rf93 MX76/M0#d 12#31 6.811321 $W=0.53
Rf94 12#32 MX100/M0#d 8.423712 $W=0.485
Rf95 12#27 12#35 254.129410 $W=0.17
Re96 12#31 12#35 76.510872 $W=0.23
Re97 12#35 12#32 76.524460 $W=0.23
Rmw98 MX75/M3#g 12 0.001000 $W=1000000
*
*|NET 40 1.05339e-16
*|I (MX103/M0#s MX103/M0 s X 0 1.2595 0.8025)
*|I (MX78/M0#d MX78/M0 d X 0 0.9805 0.8025)
*|S (40 1.1200 0.8000)
C85 40 VSS 1.05339e-16
Rmw99 MX103/M0#s 40 0.001000 $W=1000000
Rmw100 MX78/M0#d 40 0.001000 $W=1000000
*
*|NET 42 1.45242e-16
*|I (MX91/M0#s MX91/M0 s X 0 1.2595 3.2375)
*|I (MX87/M0#d MX87/M0 d X 0 0.9805 3.2375)
*|S (42 1.1200 3.2350)
C86 42 VSS 1.45242e-16
Rmw101 MX91/M0#s 42 0.001000 $W=1000000
Rmw102 MX87/M0#d 42 0.001000 $W=1000000
*
*|NET 44 9.99259e-17
*|I (MX97/M0#d MX97/M0 d X 0 2.6395 0.8025)
*|I (MX84/M0#s MX84/M0 s X 0 2.3605 0.8025)
*|S (44 2.5000 0.8000)
C87 44 VSS 9.99259e-17
Rmw103 MX97/M0#d 44 0.001000 $W=1000000
Rmw104 MX84/M0#s 44 0.001000 $W=1000000
*
*|NET 46 1.30419e-16
*|I (MX82/M0#s MX82/M0 s X 0 2.3605 3.2375)
*|I (MM0#s MM0 s X 0 2.6395 3.2375)
*|S (46 2.5000 3.2350)
C88 46 VSS 1.30419e-16
Rmw105 MX82/M0#s 46 0.001000 $W=1000000
Rmw106 MM0#s 46 0.001000 $W=1000000
*
*|NET 48 1.04441e-16
*|I (MX104/M0#s MX104/M0 s X 0 3.4995 0.8025)
*|I (MX79/M0#d MX79/M0 d X 0 3.2205 0.8025)
*|S (48 3.3600 0.8000)
C89 48 VSS 1.04441e-16
Rmw107 MX104/M0#s 48 0.001000 $W=1000000
Rmw108 MX79/M0#d 48 0.001000 $W=1000000
*
*|NET 50 1.3572e-16
*|I (MX92/M0#s MX92/M0 s X 0 3.4995 3.2375)
*|I (MX88/M0#d MX88/M0 d X 0 3.2205 3.2375)
*|S (50 3.3600 3.2350)
C90 50 VSS 1.3572e-16
Rmw109 MX92/M0#s 50 0.001000 $W=1000000
Rmw110 MX88/M0#d 50 0.001000 $W=1000000
*
*|NET 52 1.02329e-16
*|I (MX105/M0#s MX105/M0 s X 0 4.6005 0.8025)
*|I (MX80/M0#d MX80/M0 d X 0 4.8795 0.8025)
*|S (52 4.7400 0.8000)
C91 52 VSS 1.02329e-16
Rmw111 MX105/M0#s 52 0.001000 $W=1000000
Rmw112 MX80/M0#d 52 0.001000 $W=1000000
*
*|NET 54 1.2917e-16
*|I (MX93/M0#s MX93/M0 s X 0 4.6005 3.2375)
*|I (MX89/M0#d MX89/M0 d X 0 4.8795 3.2375)
*|S (54 4.7400 3.2350)
C92 54 VSS 1.2917e-16
Rmw113 MX93/M0#s 54 0.001000 $W=1000000
Rmw114 MX89/M0#d 54 0.001000 $W=1000000
*
*|NET 56 1.04571e-16
*|I (MX98/M0#d MX98/M0 d X 0 5.4605 0.8025)
*|I (MX85/M0#s MX85/M0 s X 0 5.7395 0.8025)
*|S (56 5.6000 0.8000)
C93 56 VSS 1.04571e-16
Rmw115 MX98/M0#d 56 0.001000 $W=1000000
Rmw116 MX85/M0#s 56 0.001000 $W=1000000
*
*|NET 58 1.33168e-16
*|I (MX101/M0#d MX101/M0 d X 0 5.4605 3.2375)
*|I (MX94/M0#s MX94/M0 s X 0 5.7395 3.2375)
*|S (58 5.6000 3.2350)
C94 58 VSS 1.33168e-16
Rmw117 MX101/M0#d 58 0.001000 $W=1000000
Rmw118 MX94/M0#s 58 0.001000 $W=1000000
*
*|NET 60 1.00627e-16
*|I (MX106/M0#s MX106/M0 s X 0 6.8405 0.8025)
*|I (MX81/M0#d MX81/M0 d X 0 7.1195 0.8025)
*|S (60 6.9800 0.8000)
C95 60 VSS 1.00627e-16
Rmw119 MX106/M0#s 60 0.001000 $W=1000000
Rmw120 MX81/M0#d 60 0.001000 $W=1000000
*
*|NET 62 1.28026e-16
*|I (MX95/M0#s MX95/M0 s X 0 6.8405 3.2375)
*|I (MX90/M0#d MX90/M0 d X 0 7.1195 3.2375)
*|S (62 6.9800 3.2350)
C96 62 VSS 1.28026e-16
Rmw121 MX95/M0#s 62 0.001000 $W=1000000
Rmw122 MX90/M0#d 62 0.001000 $W=1000000
*
*|NET 64 9.9978e-17
*|I (MX99/M0#d MX99/M0 d X 0 7.7005 0.8025)
*|I (MX86/M0#s MX86/M0 s X 0 7.9795 0.8025)
*|S (64 7.8400 0.8000)
C97 64 VSS 9.9978e-17
Rmw123 MX99/M0#d 64 0.001000 $W=1000000
Rmw124 MX86/M0#s 64 0.001000 $W=1000000
*
*|NET 66 1.28507e-16
*|I (MX102/M0#d MX102/M0 d X 0 7.7005 3.2375)
*|I (MX96/M0#s MX96/M0 s X 0 7.9795 3.2375)
*|S (66 7.8400 3.2350)
C98 66 VSS 1.28507e-16
Rmw125 MX102/M0#d 66 0.001000 $W=1000000
Rmw126 MX96/M0#s 66 0.001000 $W=1000000
*
*Instance Section
*
MX106/M0	MX106/M0#d	VDD	MX106/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX105/M0	MX105/M0#d	VDD	MX105/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX104/M0	MX104/M0#d	VDD	MX104/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX103/M0	MX103/M0#d	VDD	MX103/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX100/M0	MX100/M0#d	MX100/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX99/M0	MX99/M0#d	MX99/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX98/M0	MX98/M0#d	MX98/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX97/M0	MX97/M0#d	MX97/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX86/M0	MX86/M0#d	VDD	MX86/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX85/M0	MX85/M0#d	VDD	MX85/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX84/M0	MX84/M0#d	VDD	MX84/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX81/M0	MX81/M0#d	MX81/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX80/M0	MX80/M0#d	MX80/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX79/M0	MX79/M0#d	MX79/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX78/M0	MX78/M0#d	MX78/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX77/M0	MX77/M0#d	MX77/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX74/M0	MX74/M0#d	MX74/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX74/M1	VSS	MX74/M1#g	MX74/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX74/M2	MX74/M2#d	MX74/M2#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX74/M3	VSS	MX74/M3#g	MX74/M3#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX102/M0	MX102/M0#d	MX102/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX101/M0	MX101/M0#d	MX101/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX96/M0	MX96/M0#d	VSS	MX96/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX95/M0	MX95/M0#d	VSS	MX95/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX94/M0	MX94/M0#d	VSS	MX94/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX93/M0	MX93/M0#d	VSS	MX93/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX92/M0	MX92/M0#d	VSS	MX92/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX91/M0	MX91/M0#d	VSS	MX91/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX90/M0	MX90/M0#d	MX90/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX89/M0	MX89/M0#d	MX89/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX88/M0	MX88/M0#d	MX88/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX87/M0	MX87/M0#d	MX87/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX83/M0	MX83/M0#d	MX83/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX82/M0	MX82/M0#d	VSS	MX82/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX76/M0	MX76/M0#d	MX76/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX75/M0	MX75/M0#d	MX75/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX75/M1	VDD	MX75/M1#g	MX75/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX75/M2	MX75/M2#d	MX75/M2#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX75/M3	VDD	MX75/M3#g	MX75/M3#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MM0	VDD	MM0#g	MM0#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
